US04539037
Preparation of N-Methyl-N-(4-nitrophenyl) Phosphoramidic Dichloride
p-Nitro-N-methylaniline (9.3 g, 0.061 mol) and 9 mL (0.1 mol) POCl3 were heated in 50 mL toluene to 90°-95° C. overnight. The solution was cooled and filtered. The volatiles were removed from the filtrate, giving 15.3 g of a purple, viscous oil. NMR (CDCl3): AA'XX' quartet from δ7.45-7.35 (4H), 3.37 (d,3H, J=14-15 Hz). No N--H was observed in the NMR. Due to an expected very high boiling point, this material was not distilled but used directly in the preparation of N-Methyl-N-(4-nitrophenyl) phosphoric triamide in the following Example VI.

reactant | p-Nitro-N-methylaniline | 0.061 mol, 9.3 g | [N+](=O)([O-])C1=CC=C(NC)C=C1 | C7H8N2O2
reactant | POCl3 | 0.1 mol, 9 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-Methyl-N-(4-nitrophenyl) Phosphoramidic Dichloride | CN(P(=O)(Cl)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C7H7Cl2N2O3P
